US04427437
Preparation of 5-chloro-2-[3-(2,4-dichlorobenzyloxy)phenoxy]-pyrimidine (110)
A solution of 3-[5-chloro-2-pyrimidyloxy]phenol (1.11 g), 2,4 dichlorobenzylchloride (0.98 g), potassium carbonate (0.76 g) and sodium iodide (0.075 g) in methyl ethyl ketone (25 ml) was refluxed for four hours. After dilution with water, the reaction mixture was extracted into chloroform and the extracts dried over anhydrous magnesium sulphate. Removal of the solvent under vacuum gave a white solid which was recrystallised from ethanol to give 1.45 g (77%) of the title compound, mp 110° C.

reactant | 3-[5-chloro-2-pyrimidyloxy]phenol | 1.11 g | ClC=1C=NC(=NC1)OC=1C=C(C=CC1)O | C10H7ClN2O2
reactant | 2,4 dichlorobenzylchloride | 0.98 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.075 g | [I-].[Na+]
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
product | 5-chloro-2-[3-(2,4-dichlorobenzyloxy)phenoxy]-pyrimidine | 1.45 g, 77% | ClC=1C=NC(=NC1)OC1=CC(=CC=C1)OCC1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2O2
